US20010041710A1
c) (4R)-1-[4-(4-Fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid
A solution of (4R)-1-[4-(4-fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid tert-butyl ester (810 mg, 1.56 mmol) in CH2Cl2 (8 mL) was treated with trifluoroacetic acid (8 mL). The reaction mixture was stirred at room temperature for 2.5 hours and concentrated to leave an oil. The title compound, a white solid (297 mg, 58%), was collected by filtration, after triturating the oil with a mixture of warm diethyl ether and hexane.

reactant | (4R)-1-[4-(4-fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid tert-butyl ester | 1.56 mmol, 810 mg | C(C)(C)(C)OC(=O)[C@@H]1NC(N(C1)CC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C21H23FN2O4
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (4R)-1-[4-(4-Fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid | FC1=CC=C(OC2=CC=C(CN3C(N[C@H](C3)C(=O)O)=O)C=C2)C=C1 | C17H15FN2O4
